US05075303
5,6,7,8-Tetrahydro-7-dimethylaminoquinoline
This compound was prepared from dimethylammonium chloride (1.63 g, 20 mmol) and 5,6-dihydroquinoline (1.31 g, 10 mmol) using the experimental and purification method describes in Example 48. The product (0.72 g) was an oil which was identical to the compound isolated in Example 3.

reactant | dimethylammonium chloride | 20 mmol, 1.63 g | [Cl-].C[NH2+]C
reactant | 5,6-dihydroquinoline | 10 mmol, 1.31 g | N1=CC=CC=2CCC=CC12 | C9H9N
product | 5,6,7,8-Tetrahydro-7-dimethylaminoquinoline | CN(C1CCC=2C=CC=NC2C1)C | C11H16N2
